US04904776
Consequently the present invention relates to a method for producing crystalline cefadroxil hemihydrate, according to which a cefadroxil solvate of dimethylacetamide, of N-methyl-2-pyrrolidone or of monomethylformamide is slurried with a mixture methanol:isopropyl alcohol 30:7: to 70:30 by volume containing from 5% to 12% of water, at a temperature in the range of about +45° C. to +55° C. and then isolating the so obtained crystalline cefadroxil hemihydrate.

reactant | cefadroxil | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)SC1)C(=O)O | C16H17N3O5S
reactant | dimethylacetamide | CC(=O)N(C)C | C4H9NO
reactant | N-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
reactant | monomethylformamide | CNC=O | C2H5NO
solvent | water | O | H2O
solvent | methanol isopropyl alcohol | CO.C(C)(C)O
product | cefadroxil hemihydrate | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CC=C(C=C3)O)N)SC1)C(=O)O.CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CC=C(C=C3)O)N)SC1)C(=O)O.O | InChI=1S/2C16H17N3O5S.H2O/c2*1-7-6-25-15-11(14(22)19(15)12(7)16(23)24)18-13(21)10(17)8-2-4-9(20)5-3-8;/h2*2-5,10-11,15,20H,6,17H2,1H3,(H,18,21)(H,23,24);1H2/t2*10-,11-,15-;/m11./s1
